US07405280B2
Operating mode: 1 equivalent of N-(4-methoxyphenylazoformyl)L-phenylalanine arginine methyl ester was taken up in a water/methanol mixture (ratio: 1/2; 3 ml/mmol). 3 equivalent of 1 N sodium hydroxide was added. After 1 h, the reactional medium was acidified, concentrated then extracted with water/dichloromethane. The dichioromethane phase was evaporated then dried. N-(4-methoxyphenylazoformyl)-L-phenylalanyl arginine was obtained as an orange powder.

reactant | N-(4-methoxyphenylazoformyl)L-phenylalanine arginine methyl ester | 1 equivalent | COC([C@@H](N)CCCNC(N)=N)=O.COC1=CC=C(C=C1)N=NC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O
reactant | sodium hydroxide | 1 N, 3 equivalent | [OH-].[Na+]
solvent | water methanol | O.CO
product | N-(4-methoxyphenylazoformyl)-L-phenylalanyl arginine | COC1=CC=C(C=C1)N=NC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C23H29N7O5
